US08030334B2
A flask is charged with 3-(5-chloro-3-methyl-2-pyridinyl-indol-1-yl)-propionic acid (0.344 g, 1.09 mmol) and THF (10 mL). The reaction mixture is cooled to 0° C. and LAH (1M in THF, 2.73 mL, 2.73 mmol) is added. After stirring at room temperature for 30 min, the mixture is cooled to 0° C., quenched with aqueous NaHCO3 and extracted with ethyl acetate. The organic layer is dried over sodium sulfate and concentrated in vacuo to give a residue which is purified by silica gel flash chromatography (dichloromethane-methanol, 19:1) to afford 3-(5-chloro-3-methyl-2-pyridinyl-indol-1-yl)-propan-1-ol as a white solid. 1H NMR (400 MHz, MeOD) δ ppm 1.71-1.82 (m, 2H), 2.23 (s, 3H), 3.38 (t, J=6.1 Hz, 2H), 4.18-4.24 (m, 2H), 7.21 (dd, J=8.8, 2.0 Hz, 1H), 7.49 (d, J=8.6 Hz, 1H), 7.57 (d, J=1.8 Hz, 1H), 7.65 (ddd, J=7.9, 5.0, 1.0 Hz, 1H), 7.98 (ddd, J=8.1, 2.0, 1.8 Hz, 1H), 8.65 (dd, J=2.3, 0.8 Hz, 1H), 8.67 (dd, J=5.1, 1.8 Hz, 1H). HRMS (ESI) m/z 301.1108 [(M+H)+ Calcd for C17H18ClN2O: 301.1108].

reactant | 3-(5-chloro-3-methyl-2-pyridinyl-indol-1-yl)-propionic acid | 1.09 mmol, 0.344 g | ClC=1C=C2C(=C(N(C2=CC1)CCC(=O)O)C1=NC=CC=C1)C | C17H15ClN2O2
reactant | LAH | 2.73 mmol, 1M, 2.73 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(5-chloro-3-methyl-2-pyridinyl-indol-1-yl)-propan-1-ol | ClC=1C=C2C(=C(N(C2=CC1)CCCO)C1=NC=CC=C1)C | C17H17ClN2O
